US07777038B2
2.2 g of 10% palladium carbon was added to a DMF solution (20 ml) of 2.2 g of 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene)thiazolidine-2,4-dione, and the mixture was subjected to catalytic reduction at room temperature for 2 hours. The catalyst was removed by filtration, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, washed with water and saturated sodium chloride solution, and concentrated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=50:1). The purified product was recrystallized from a dichloromethane-ether mixed solvent, giving 1.9 g (88% yield) of 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione as a white powder.

reactant | 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethylidene)thiazolidine-2,4-dione | 2.2 g | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)O)C=C1C(NC(S1)=O)=O)=O | C20H16N2O4S
catalyst | palladium carbon | 2.2 g | [C].[Pd]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(1-benzyl-8-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 1.9 g, 88% yield | C(C1=CC=CC=C1)N1C(CCC2=C(C=CC(=C12)O)CC1C(NC(S1)=O)=O)=O | C20H18N2O4S
